US07109354B2
a) 1-Chloro-5-methanesulfonyl-pentane
The reaction was conducted following the procedure for Example 171: step a, using 1-bromo-5-chloro-pentane (0.400 g, 2.150 mmol), methane sulfinic acid, (1.090 g, 10.75 mmol), EtOH [3 mL], H2O, [3 mL]. Chromatography of the residue (0%–25% MeOH/DCM) yielded the title compound (0.213 g 53%). 1H-NMR (CDCl3): δ 3.55 (t, 2H, J=6.3 Hz), 3.03 (t, 2H, J=8.0 Hz), 2.91 (s, 3H), 1.85 (m, 4H), 1.63 (m, 2H)

reactant | 1-bromo-5-chloro-pentane | 2.150 mmol, 0.400 g | BrCCCCCCl | C5H10BrCl
reactant | methane sulfinic acid | 10.75 mmol, 1.090 g | CS(=O)O | CH4O2S
reactant | EtOH | 3 mL | CCO | C2H6O
reactant | H2O | O | H2O
solvent | MeOH DCM | CO.C(Cl)Cl
product | 1-Chloro-5-methanesulfonyl-pentane | 0.213 g, 53% | ClCCCCCS(=O)(=O)C | C6H13ClO2S
